US04004027
To a solution of 2-(1-hydroxy-2-octynyl)-5-(tetrahydropyran-2-yloxy)-cyclopentaneheptanoic acid (11.5 g), described in Example 2, in dry pyridine (50 ml), acetic anhydride (35.6 ml) is added. The mixture is stirred overnight. The solvent is removed under reduced pressure. The residue is dissolved in ether and the solution is washed with ether, dried and concentrated to yield 2-(1-acetoxy-2-octynyl)-5-(tetrahydropyran-2-yloxy)-cyclopentaneheptanoic acid, (3; R1 = H, R2 = tetrahydropyran-2-yl and R3 = CH3CO), νmax film 1700, 1735 cm-1.

reactant | 2-(1-hydroxy-2-octynyl)-5-(tetrahydropyran-2-yloxy)-cyclopentaneheptanoic acid | 11.5 g | OC(C#CCCCCC)C1C(C(CC1)OC1OCCCC1)CCCCCCC(=O)O | C25H42O5
reactant | acetic anhydride | 35.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-(1-acetoxy-2-octynyl)-5-(tetrahydropyran-2-yloxy)-cyclopentaneheptanoic acid | C(C)(=O)OC(C#CCCCCC)C1C(C(CC1)OC1OCCCC1)CCCCCCC(=O)O | C27H44O6
